US07338959B2
(4-{4-[(2-Benzylamino-1-ethyl-1 H-benzoimidazol-5-yl)-methyl-amino]-pyrimidin-2-ylamino}-phenyl)-methanesulfonamide hydrochloride
The title compound was prepared following the procedure of example two with N2-Benzyl-N5-(2-chloro-pyrimidin-4-yl)-1-ethyl-N5-methyl-1H-benzoimidazole-2,5-diamine (98 mg, 0.25 mmol) and (4-amino-phenyl)-methanesulfonamide (46 mg, 0.25 mmol) as a white solid (97 mg, 67%). 1H NMR (300 MHz, d6-DMSO+NaHCO3) δ 9.30 (s, 1H), 7.79 (d, J=6.0 Hz, 1H), 7.75 (d, J=8.7 Hz, 2H), 7.15-7.42 (M, 9H), 6.9+5 (d, J=8.1 Hz, 1H), 6.77 (s, 2H), 5.69 (d, J=6.0 Hz, 1H), 4.65 (d, J=5.7 Hz, 2H), 4.16-4.18 (m, 4H), 3.44 (s, 3H), 1.27 (t, J=7.2 Hz, 3H). MS (ESI) m/z=543 [M+H]+.

reactant | N2-Benzyl-N5-(2-chloro-pyrimidin-4-yl)-1-ethyl-N5-methyl-1H-benzoimidazole-2,5-diamine | 0.25 mmol, 98 mg | C(C1=CC=CC=C1)NC1=NC2=C(N1CC)C=CC(=C2)N(C)C2=NC(=NC=C2)Cl | C21H21ClN6
reactant | (4-amino-phenyl)-methanesulfonamide | 0.25 mmol, 46 mg | NC1=CC=C(C=C1)CS(=O)(=O)N | C7H10N2O2S
product | (4-{4-[(2-Benzylamino-1-ethyl-1 H-benzoimidazol-5-yl)-methyl-amino]-pyrimidin-2-ylamino}-phenyl)-methanesulfonamide hydrochloride | Cl.C(C1=CC=CC=C1)NC1=NC2=C(N1CC)C=CC(=C2)N(C2=NC(=NC=C2)NC2=CC=C(C=C2)CS(=O)(=O)N)C | InChI=1S/C28H30N8O2S.ClH/c1-3-36-25-14-13-23(17-24(25)33-28(36)31-18-20-7-5-4-6-8-20)35(2)26-15-16-30-27(34-26)32-22-11-9-21(10-12-22)19-39(29,37)38;/h4-17H,3,18-19H2,1-2H3,(H,31,33)(H2,29,37,38)(H,30,32,34);1H
